US07459554B2
2-{3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-benzyl}-isoindole-1,3-dione:
Phthalimide (44 mg, 0.25 mmol), PS-triphenylphosphine (169 mg, 0.37 mmol) and {3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-phenyl}-methanol (100 mg, 0.25 mmol) were added to a dry rbf and dissolved with THF (1.25 mL), which was then evacuated and purged three times with nitrogen. DIAD (61 mg, 0.30 mmol) was added slowly to the reaction mixture and allowed to slowly stir for 24 h at rt. LC/MS analysis indicated that the reaction was nearly finished with some starting material left, but mostly product. Therefore, 0.2 eq. of DIAD and phthalimide were added and the reaction was left to proceed. The reaction mixture was filtered through a glass frit and washed with CH2Cl2 multiple times. The filtrate was concentrated to a red/brown oil and purified using silica gel column chromatography (1% NH3 in MeOH:CH2Cl2) to afford the title compound; 1H NMR (CDCl3, 400 MHz) δ 2.00-2.09 (m, 1H), 2.11-2.23 (m, 1H), 2.45-2.53 (m, 2H), 2.59-2.69 (m, 2H), 3.77-3.85 (m, 1H), 4.87 (s, 2H), 5.11 (s, 2H), 6.99-7.02 (m, 2H), 7.10 (d, J=5.2 Hz, 1H), 7.23-7.26 (m, 2H), 7.35-7.42 (m, 4H), 7.49 (s, 1H), 7.69-7.73 (m, 2H), 7.82-7.87 (m, 2H); MS (ES+): m/z 530.14 (100) [MH+].

reactant | Phthalimide | 0.25 mmol, 44 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 0.37 mmol, 169 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | {3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-phenyl}-methanol | 0.25 mmol, 100 mg | NC=1C=2N(C=CN1)C(=NC2C=2C=C(OCC=1C=C(C=CC1)CO)C=CC2)C2CCC2 | C24H24N4O2
reactant | DIAD | 0.30 mmol, 61 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | DIAD | 0.2 eq. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1.25 mL | C1CCOC1 | C4H8O
product | 2-{3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-benzyl}-isoindole-1,3-dione | NC=1C=2N(C=CN1)C(=NC2C=2C=C(OCC=1C=C(CN3C(C4=CC=CC=C4C3=O)=O)C=CC1)C=CC2)C2CCC2 | C32H27N5O3
